US06087359
To a solution of D-valine (6.40 g, 54.6 mmol) in H2O (62 mL) and acetone (25 mL) was added triethylamine (16.2 mL, 117 mmol). The solution was cooled to zero degrees C. in an ice/H2O bath and a solution of 4-fluorobenzenesulfonyl chloride (10.0 g, 51.4 mmol) in acetone (25 mL) was added dropwise. After stirring at room temperature for 20 hours, the resulting yellow solution was concentrated in vacuo to remove the acetone. The aqueous residue was extracted with toluene (2×50 mL) and acidified to pH=1 with 12 M HCl. The solution was extracted with ethyl acetate (3×50 mL) and the combined organic layers were washed successively with 1M KHSO4 (50 mL), H2O (50 mL), and sat'd NaCl (50 mL), then dried over MgSO4. Concentration in vacuo and trituration with hexane afforded N-[(4-fluorophenyl)-sulfonyl]-D-valine as a white solid (12.56 g, 89%): MS MH+ calcd. for Anal. Calc'd for C11H14NO4SF: C, H, N. Found: C, H, N. HR mass calculated for C11H14NO4S: 276.0706. Found: 276.0710.

reactant | D-valine | 54.6 mmol, 6.40 g | N[C@H](C(C)C)C(=O)O | C5H11NO2
reactant | triethylamine | 117 mmol, 16.2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzenesulfonyl chloride | 51.4 mmol, 10.0 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | H2O | 62 mL | O | H2O
solvent | acetone | 25 mL | CC(=O)C | C3H6O
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | N-[(4-fluorophenyl)-sulfonyl]-D-valine | 12.56 g, 89% | FC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(C)C)C(=O)O | C11H14FNO4S
